US04435406
39.6 g of 2-methyl-5-acetamino-6-nitro-1,3-benzodioxole were boiled at reflux for 1 hour in 4 l of methanol with 4 g of sodium methoxide. After adding 5 ml of glacial acetic acid, the solution was evaporated in vacuo. The last traces of glacial acetic acid were removed by evaporation with toluene. The residue was dissolved in methylene chloride and filtered through a small amount of silicon dioxide. The evaporated filtrate was crystallized from isopropanol. There were obtained 29.3 g (90.1% of theory) of 2-methyl-5-amino-6-nitro-1,3-benzodioxole of melting point 139° C.

reactant | 2-methyl-5-acetamino-6-nitro-1,3-benzodioxole | 39.6 g | CC1OC2=C(O1)C=C(C(=C2)NC(=O)C)[N+](=O)[O-] | C10H10N2O5
reactant | sodium methoxide | 4 g | C[O-].[Na+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 l | CO | CH4O
product | 2-methyl-5-amino-6-nitro-1,3-benzodioxole | 29.3 g, 90.1% | CC1OC2=C(O1)C=C(C(=C2)N)[N+](=O)[O-] | C8H8N2O4
